US08236826B2
Production of N-[6-(4-chloromethylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide
To a solution of N-[6-(4-hydroxymethylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide (3.06 g, 7.9 mmol) in dichloromethane (90 mL) was added thionyl chloride (1.7 mL, 23.3 mmol), and the resulting solution was stirred for 4 hours at room temperature. To the residue was added a saturated sodium bicarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was washed with diethyl ether, to thereby yield 2.95 g of the title compound.

reactant | N-[6-(4-hydroxymethylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide | 7.9 mmol, 3.06 g | OCC1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C20H15F3N2O3
reactant | thionyl chloride | 23.3 mmol, 1.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | N-[6-(4-chloromethylphenoxy)pyridin-3-yl]-4-trifluoromethylbenzamide | ClCC1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C20H14ClF3N2O2
